US03966780
29.5 g of 3,7-dimethyl-7-methoxy-octanal and 42 g of diethylphosphono-α-methyl-crotonic acid methyl ester are dissolved in 100 ml of absolute benzene. To this solution there is added dropwise 4.1 g of sodium dissolved in 50 ml of absolute methanol. The mixture is stirred for 5 hours at 60°C., poured on to ice-water and extracted with diethyl ether. The ethereal solution is washed with water, then with aqueous sodium bicarbonate solution and once again with water, dried with sodium sulphate, filtered and concentrated on a rotary evaporator. After chromatography on a 30-fold amount of Kieselgel, using hexane/diethyl ether (9:1 parts by volume) as the eluant, there is obtained 11-methoxy-2,7,11-trimethyl-2,4-dodecadienoic acid methyl ester; boiling point 100°C/0.002 mmHg.

reactant | 3,7-dimethyl-7-methoxy-octanal | 29.5 g | CC(CC=O)CCCC(C)(OC)C | C11H22O2
reactant | diethylphosphono-α-methyl-crotonic acid methyl ester | 42 g | COC(\C(=C(\C)/P(=O)(OCC)OCC)\C)=O | C10H19O5P
reactant | sodium | 4.1 g | [Na] | Na
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 50 ml | CO | CH4O
product | 11-methoxy-2,7,11-trimethyl-2,4-dodecadienoic acid methyl ester | COC(C(=CC=CCC(CCCC(C)(C)OC)C)C)=O | C17H30O3
